US07396847B2
N-[3-(4-Bromo-3-fluoro-phenyl)-4,5-dihydro-isoxazol-5-ylmethyl]-acetamide
[3-(4-Bromo-3-fluoro-phenyl)-4,5-dihydro-isoxazol-5-yl]-methylamine (9 g, 33.8 mmol) and triethylamine (7 ml, 50.8 mmol) were added to anhydrous dichloromethane (100 ml) and cooled to 0° C. Acetyl chloride (2.8 ml, 40.6 mmol) was then added dropwise and the reaction was stirred for 3 hours followed by addition of ethyl acetate (200 ml). The precipitate was collected and washed with water (2×50 ml) to give the desired product (5 g).

reactant | [3-(4-Bromo-3-fluoro-phenyl)-4,5-dihydro-isoxazol-5-yl]-methylamine | 33.8 mmol, 9 g | BrC1=C(C=C(C=C1)C1=NOC(C1)NC)F | C10H10BrFN2O
reactant | triethylamine | 50.8 mmol, 7 ml | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
reactant | Acetyl chloride | 40.6 mmol, 2.8 ml | C(C)(=O)Cl | C2H3ClO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | N-[3-(4-Bromo-3-fluoro-phenyl)-4,5-dihydro-isoxazol-5-ylmethyl]-acetamide | 5 g | BrC1=C(C=C(C=C1)C1=NOC(C1)CNC(C)=O)F | C12H12BrFN2O2
